Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[O:3])[C:11](/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],-0.0337665579999999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13].[H:7],5.51701230858
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11]>>[H:11].[H:1][C:2]1=[C:9]([H:10])[C:8][O:7][C:5]([H:6])=[C:3]1[H:4],1.56297272028
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[O:14][H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.35546539299
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.99291424976
[C:1]#[C:2].[C:3]=[C:4]([H:5])[H:6]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6],-7.09502164785
[H:7].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])=[C:10][H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-2.52810071763
[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.66808778076
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11]>>[O:1]=[C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],-1.33723325714
[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.38118911584
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.83970562375
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],4.12215121144
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[O:1]=[C:2][H:3],2.21246254167
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.79887604112
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5][C:14]([H:15])([H:16])[H:17],6.611380211419999
[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.95515852969
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.1836657013
[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1]=[C:2]([C:3](=[C:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.94293352301
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10].[H:11]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.671490491319999
[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],-5.07040229674
[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([C:3]#[C:11][H:12])([C:4]([H:5])([C:6]([H:7])=[C:8][H:9])[H:10])[H:13],1.80687641046
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.46614816461
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.7777966691900002
[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.58427268581
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],0.563884048241
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C:5][O:7][H:8].[H:6],2.92118297636
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][H:8],0.472954703091
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.05238338296
[O:1]=[C:2]1[C:3](=[C:4][H:5])[O:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2][C:7]([O:6][C:3]#[C:4][H:5])([H:8])[H:9],0.4908734439
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11],3.80787399993
